US07456211B2
To a solution of (+/−)-(3RS,4SR)-N-benzyloxy-N-(4-butyl-2-oxopyrrolidin-3-yl-methyl)formamide (0.18 g, 0.59 mmol) in dry THF (3 mL) at −78° C. under argon was added dropwise lithium bis(trimethylsilyl)amide in THF (1 M, 0.71 mL). After 20 min, benzoyl chloride (0.077 mL, 0.89 mmol) was added dropwise and stirring continued for 2 h. The reaction was warmed up to 0° C., quenched with saturated aq. NH4Cl (10 mL) and extracted with dichloromethane (3×10 mL). The combined organic solution was dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography (silica gel, ethyl acetate/hexanes 1:1) to afford (+/−)-(3RS,4SR)-N-benzyloxy-N-[4-butyl-2-oxo-1-(1-phenylmethanoyl)pyrrolidin-3-yl-methyl)formamide as a white solid (0.12 g, 50%). MS(ES) m/e 409 [M+H]+.

reactant | (+/−)-(3RS,4SR)-N-benzyloxy-N-(4-butyl-2-oxopyrrolidin-3-yl-methyl)formamide | 0.59 mmol, 0.18 g | C(C1=CC=CC=C1)ON(C=O)CC1C(NCC1CCCC)=O | C17H24N2O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzoyl chloride | 0.89 mmol, 0.077 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 0.71 mL | C1CCOC1 | C4H8O
product | (+/−)-(3RS,4SR)-N-benzyloxy-N-[4-butyl-2-oxo-1-(1-phenylmethanoyl)pyrrolidin-3-yl-methyl)formamide | 0.12 g, 50% | C(C1=CC=CC=C1)ON(C=O)CC1C(N(CC1CCCC)C(=O)C1=CC=CC=C1)=O | C24H28N2O4
